US05202319
3,5-Dichloro-N-(7,8-dimethoxy-1-phenoxy-2,3,4,5-tetrahydro-1H-3-benzazepin-3-yl)benzamide
3,5-Dichlorobenzoyl chloride (1.7 g) was added to a solution of 3-amino-7,8-dimethoxy-1-phenoxy-2,3,4,5-tetrahydro-3-benzazepine (2.1 g) in 100 ml dichloromethane containing sodium bicarbonate (3 g). After one hour, the mixture was filtered and concentrated. The solid residue was eluted through silica with 10% ethyl acetate in dichloromethane to yield 2.4 g of light tan solid, mp 182°-184°. This solid was recrystallized from acetonitrile to yield 2 g of white crystals, mp 184°-185°.

reactant | 3,5-Dichlorobenzoyl chloride | 1.7 g | ClC=1C=C(C(=O)Cl)C=C(C1)Cl | C7H3Cl3O
reactant | 3-amino-7,8-dimethoxy-1-phenoxy-2,3,4,5-tetrahydro-3-benzazepine | 2.1 g | NN1CCC2=C(C(C1)OC1=CC=CC=C1)C=C(C(=C2)OC)OC | C18H22N2O3
reactant | sodium bicarbonate | 3 g | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3,5-Dichloro-N-(7,8-dimethoxy-1-phenoxy-2,3,4,5-tetrahydro-1H-3-benzazepin-3-yl)benzamide | 2 g | ClC=1C=C(C(=O)NN2CCC3=C(C(C2)OC2=CC=CC=C2)C=C(C(=C3)OC)OC)C=C(C1)Cl | C25H24Cl2N2O4
